US06235771B1
Under argon atmosphere, a mixture of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.80 g), 4-propylphenyl borate (0.435 g) and potassium carbonate (0.67 g) in toluene/ethanol/water (25/2.5/2.5 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphinepalladium (0.14 g), and the mixture was refluxed for 18 hours, cooled, extracted with ethyl acetate, washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. Precipitated crystals were collected by filtration and the crystals were washed with ethyl acetate, diisopropylether and hexane to give colorless crystals of methyl 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (557.2 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.80 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-propylphenyl borate | 0.435 g | B(OC1=CC=C(C=C1)CCC)([O-])[O-]
reactant | potassium carbonate | 0.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 2.5 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 557.2 mg | C(CC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C21H22O4S
